US08084448B2
H. 5-(2-Benzyloxy-4-hydroxyphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
To a solution of 5-[2-benzyloxy-4-(tert-butyldimethylsilanyloxy)phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (100 mg, 0.18 mmol) in THF (4.5 mL) is added 0.5 mL of 4N HCl in dioxane and the mixture is stirred at RT for 5 days. The solution is concentrated, dissolved in EtOAc and the aqueous phase separated. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure to afford the title compound: 1H NMR (CDCl3δ7.29 (m, 5H), 7.16 (d, J=8.3 Hz, 1H), 6.42 (d, J=2.5 Hz, 1H), 6.27 (dd, J=8.3, 2.5 Hz, 1H), 4.92 (s, 2H), 4.24 (s, 2H), 3.52 (m, 2H), 0.99 (m. 2H), 0.00 (s, 9H): (M+1)+=435.

reactant | 5-[2-benzyloxy-4-(tert-butyldimethylsilanyloxy)phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.18 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C26H40N2O5SSi2
reactant | HCl | 4N, 0.5 mL | Cl | ClH
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(2-Benzyloxy-4-hydroxyphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)O)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H26N2O5SSi
